US07618978B2
2-sec-Butylamino-6-(1,1-dioxo-1λ6[1,2]thiazinan-2-yl)-isonicotinic acid
Add 1 N lithium hydroxide (4.0 mL, 3.88 mmol) to a solution of 2-sec-butylamino-6-(1,1-dioxo-1λ6-[1,2]thiazinan-2-yl)-isonicotinic acid methyl ester (0.590 g, 1.80 mmol) in THF (5 mL) at 0° C. Stir for 2 h at room temperature and acidify the mixture to about pH =2 and concentrate. Extract the residue with ethyl acetate (3×40 mL) and wash the combined extract with saturated aqueous sodium chloride, dry (magnesium sulfate) and concentrate to give the title compound (0.377 g, 74%).

reactant | lithium hydroxide | 3.88 mmol, 1 N, 4.0 mL | [OH-].[Li+]
reactant | 2-sec-butylamino-6-(1,1-dioxo-1λ6-[1,2]thiazinan-2-yl)-isonicotinic acid methyl ester | 1.80 mmol, 0.590 g | COC(C1=CC(=NC(=C1)N1S(CCCC1)(=O)=O)NC(C)CC)=O | C15H23N3O4S
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 2-sec-Butylamino-6-(1,1-dioxo-1λ6[1,2]thiazinan-2-yl)-isonicotinic acid | 0.377 g, 74% | C(C)(CC)NC=1C=C(C(=O)O)C=C(N1)N1S(CCCC1)(=O)=O | C14H21N3O4S
